US08497368B2
A mixture of 3-amino-6-chloropyridazine (1.3 g, 10 mmol) and dimethylformamide dimethylacetal (1.35 ml, 10.2 mmol) was heated at reflux for 2 h and concentrated under vacuum to afford a brown solid. After recrystallization with EtOAc, 1.5 g of N′-(6-Chloro-pyridazin-3-yl)-N,N-dimethyl-formamidine was obtained in 81% yield.

reactant | 3-amino-6-chloropyridazine | 10 mmol, 1.3 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | dimethylformamide dimethylacetal | 10.2 mmol, 1.35 ml | COC(N(C)C)OC | C5H13NO2
product | N′-(6-Chloro-pyridazin-3-yl)-N,N-dimethyl-formamidine | 1.5 g, 81% yield | ClC1=CC=C(N=N1)N=CN(C)C | C7H9ClN4
